US07476688B2
(Step 2) tert-Butyl 3-benzyl-2-oxo-4-propyl-1-pyrrolidinecarboxylate
A 1.0 M tetrahydrofuran solution of lithium hexamethyldisilazane (6.2 ml, 6.2 mmol) was gradually added to a solution of tert-butyl. 2-oxo-4-propyl-1-pyrrolidinecarboxylate (1.35 g, 5.94 mmol) in tetrahydrofuran (20 ml) at −70° C. and the mixture was stirred for 15 minutes. Benzyl bromide was added to the reaction mixture and the temperature of the mixture was gradually raised to 0° C. and it was stirred for 3 hours. Saturated aqueous ammonium chloride solution was added to the reaction mixture and extraction was performed with ethyl acetate. After washing the organic layer with brine and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.22 g) as a light yellow oil. 1H-NMR (CDCl3) δ(ppm) 0.80 (3H, t, J=7.2 Hz), 1.10-1.40 (4H, m), 1.52 (9H, s), 1.87-1.95 (1H, m), 2.44-2.52 (1H, m), 2.90 (1H, dd, J=14.4 Hz, 7.2 Hz), 3.10 (1H, dd, J=14.4 Hz, 5.2 Hz), 3.15 (1H, dd, J=10.8 Hz, 8.0 Hz), 3.71 (1H, dd, J=10.8 Hz, 8.0 Hz), 7.15-7.33 (5H, m)

reactant | lithium hexamethyldisilazane | 6.2 mmol, 6.2 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 2-oxo-4-propyl-1-pyrrolidinecarboxylate | 5.94 mmol, 1.35 g | O=C1N(CC(C1)CCC)C(=O)[O-]
reactant | Benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-benzyl-2-oxo-4-propyl-1-pyrrolidinecarboxylate | 1.22 g | C(C1=CC=CC=C1)C1C(N(CC1CCC)C(=O)OC(C)(C)C)=O | C19H27NO3
